US06608059B1
b) 5-(2,6-Dichlorobenzyloxy)-2-(oxazol-5-yl)-1-[3-(1H-tetrazol-5-yl)propyl]-1H-indole
To a solution of 4-[5-(2,6-dichlorobenzyloxy)-2-(oxazol-5-yl)indol-1-yl]butyronitrile (0.21 g, 0.49 mmol) in toluene (10 mL) was added azidotrimethylsilane (0.20 mL, 1.48 mmol) and dibutyltin oxide (0.037 g, 0.148 mmol). The reaction was refluxed for 16 h. The solvent was removed under reduced pressure and the crude product was purified by flash column chromatography (silica gel, MeOH/CH2Cl2) to yield a yellow solid (0.18 g, 78%). MS(ES) m/e 469.0 [M+H]+.

reactant | 4-[5-(2,6-dichlorobenzyloxy)-2-(oxazol-5-yl)indol-1-yl]butyronitrile | 0.49 mmol, 0.21 g | ClC1=C(COC=2C=C3C=C(N(C3=CC2)CCCC#N)C2=CN=CO2)C(=CC=C1)Cl | C22H17Cl2N3O2
reactant | azidotrimethylsilane | 1.48 mmol, 0.20 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | dibutyltin oxide | 0.148 mmol, 0.037 g | C(CCC)[Sn](CCCC)=O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(2,6-Dichlorobenzyloxy)-2-(oxazol-5-yl)-1-[3-(1H-tetrazol-5-yl)propyl]-1H-indole | 0.18 g, 78% | ClC1=C(COC=2C=C3C=C(N(C3=CC2)CCCC2=NN=NN2)C2=CN=CO2)C(=CC=C1)Cl | C22H18Cl2N6O2
